US07531297B2
3 g of 4-bromostyrene, 4 g of acrolein, 3 g of methacrylate and 0.2 g of AIBN were sufficiently mixed with 50 g of PGMEA. The mixture was polymerized by heating the mixture at 67° C. for 8 hours. After completion of the polymerization, the polymerization product was precipitated in n-hexane, filtered, and dried in vacuo to give a poly(bromostyrene-acrolein-methacrylate) copolymer.

reactant | 4-bromostyrene | 3 g | BrC1=CC=C(C=C)C=C1 | C8H7Br
reactant | acrolein | 4 g | C(=O)C=C | C3H4O
reactant | methacrylate | 3 g | C(C(=C)C)(=O)[O-]
reactant | AIBN | 0.2 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | PGMEA | 50 g | CC(COC)OC(=O)C | C6H12O3
product | bromostyrene acrolein methacrylate | BrC=CC1=CC=CC=C1.C(=O)C=C.C(C(=C)C)(=O)[O-] | InChI=1S/C8H7Br.C4H6O2.C3H4O/c9-7-6-8-4-2-1-3-5-8;1-3(2)4(5)6;1-2-3-4/h1-7H;1H2,2H3,(H,5,6);2-3H,1H2/p-1
